US07138425B2
b) 2-(3-Amino-4-methoxyphenyl)-5-(2-benzothiophenyl)benzoxazole
Prepared by the method of Example 15e), from 2-(3-nitro-4-methoxyphenyl)-5-(2-benzothiophenyl)benzoxazole (200 mg, 0.50 mmol) and palladium on carbon (10%) (10 mg) in dioxane (10 ml), the subtitle compound was obtained.(40 mg, 86%). MS 373.2 m/z (M+H)+.

reactant | 2-(3-nitro-4-methoxyphenyl)-5-(2-benzothiophenyl)benzoxazole | 0.50 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C=2SC1=C(C2)C=CC=C1 | C22H14N2O4S
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-(3-Amino-4-methoxyphenyl)-5-(2-benzothiophenyl)benzoxazole | NC=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C=2SC1=C(C2)C=CC=C1 | C22H16N2O2S
